* C:\Users\circuit\spice\saradc.asc
C1 N031 N040 320f
S1 N040 N041 SW5 0 SW
S2 N040 0 SW5B 0 SW
C2 N031 N039 160f
S3 N039 N041 SW4 0 SW
S4 N039 0 SW4B 0 SW
C3 N031 N038 80f
S5 N038 N041 SW3 0 SW
S6 N038 0 SW3B 0 SW
C4 N031 N037 40f
S7 N037 N041 SW2 0 SW
S8 N037 0 SW2B 0 SW
C5 N031 N036 20f
S9 N036 N041 SW1 0 SW
S10 N036 0 SW1B 0 SW
C6 N031 N035 10f
S11 N035 N041 SW0 0 SW
S12 N035 0 SW0B 0 SW
C7 N031 N034 10f
S13 N034 N041 Sample 0 SW
S14 N034 0 COMP_ENB 0 SW
S15 N041 N042 COMP_ENB 0 SW
S16 N041 Vin Sample 0 SW
V1 CLK 0 PULSE(0 {Vhigh} 0 30p 30p 5.55n 11.11n)
V2 N042 0 {Vhigh}
VIN Vin 0 PULSE(0 {Vhigh} 0 12.8u 0 0.2u 13u)
S17 0 N031 Sample 0 SW
A1 CLK COMP_EN 0 0 0 N033 0 0 OR Trise={Trise} Td={Td} Vhigh={Vhigh}
A2 COMP_EN 0 0 0 0 COMP_ENB 0 0 BUF Vt=.5 Vh=0.1 Trise={Trise} Vhigh={Vhigh}
B1 DOUT 0 V=32*V(Q05)+16*V(Q04)+8*V(Q03)+4*V(Q02)+2*V(Q01)+V(Q00)
A3 TIHI 0 CLK 0 CLR N013 N020 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A4 0 TIHI 0 N013 0 0 Sample 0 AND Trise={Trise} Td={Td} Vhigh={Vhigh}
A5 Sample D6 N001 0 0 SW5B SW5 0 OR Trise={Trise} Td={Td} Vhigh={Vhigh}
V4 TIHI 0 {Vhigh}
A6 CLK 0 0 0 0 N028 0 0 BUF Trise={Trise} Vhigh={Vhigh}
A7 N020 0 CLK 0 N027 COMP_EN N021 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A8 N021 0 CLK 0 CLR N014 N022 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A9 N022 0 CLK 0 CLR N015 N023 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A10 N023 0 CLK 0 CLR N016 N024 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A11 N024 0 CLK 0 CLR N017 N025 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A12 N025 0 CLK 0 CLR N018 N026 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A13 N026 0 CLK 0 CLR N019 N027 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A14 N027 0 N028 0 0 0 CLR 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A15 COMP_IN 0 N007 0 Sample 0 N001 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A16 COMP_IN 0 N008 0 Sample 0 N002 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A17 COMP_IN 0 N009 0 Sample 0 N003 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A18 COMP_IN 0 N010 0 Sample 0 N004 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A19 COMP_IN 0 N011 0 Sample 0 N005 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A20 COMP_IN 0 N012 0 Sample 0 N006 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A21 N001 0 CLR 0 0 0 Q05 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A22 N002 0 CLR 0 0 0 Q04 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A23 N003 0 CLR 0 0 0 Q03 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A24 N004 0 CLR 0 0 0 Q02 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A25 N005 0 CLR 0 0 0 Q01 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A26 N006 0 CLR 0 0 0 Q00 0 DFLOP Vhigh={Vhigh} Vlow={Vlow} Td={Td} Trise={Trise}
A27 0 N020 0 COMP_EN 0 0 N0V 0 AND Trise={Trise} Td={Td} Vhigh={Vhigh}
A28 0 N021 0 N014 0 N007 D6 0 AND Trise={Trise} Td={Td} Vhigh={Vhigh}
A29 0 N022 0 N015 0 N008 D5 0 AND Trise={Trise} Td={Td} Vhigh={Vhigh}
A30 0 N023 0 N016 0 N009 D4 0 AND Trise={Trise} Td={Td} Vhigh={Vhigh}
A31 0 N024 0 N017 0 N010 D3 0 AND Trise={Trise} Td={Td} Vhigh={Vhigh}
A32 0 N025 0 N018 0 N011 D2 0 AND Trise={Trise} Td={Td} Vhigh={Vhigh}
A33 0 N026 0 N019 0 N012 D1 0 AND Trise={Trise} Td={Td} Vhigh={Vhigh}
A34 Sample D5 N002 0 0 SW4B SW4 0 OR Trise={Trise} Td={Td} Vhigh={Vhigh}
A35 Sample D4 N003 0 0 SW3B SW3 0 OR Trise={Trise} Td={Td} Vhigh={Vhigh}
A36 Sample D3 N004 0 0 SW2B SW2 0 OR Trise={Trise} Td={Td} Vhigh={Vhigh}
A37 Sample D2 N005 0 0 SW1B SW1 0 OR Trise={Trise} Td={Td} Vhigh={Vhigh}
A38 Sample D1 N006 0 0 SW0B SW0 0 OR Trise={Trise} Td={Td} Vhigh={Vhigh}
XX1 N033 N029 N032 N030 0 outn COMP_IN my_comparator
V5 N029 0 1.8
V6 N030 0 {common}
V7 N032 N031 {common}

* block symbol definitions
.subckt my_comparator CLK VDD VINN VINP VSS VOUTN VOUTP
M2 N002 VINN N005 VSS CMOSN l={L2} w={W2} m={M2}
M3 N005 CLK VSS VSS CMOSN l={L3} w={W3} m={M3}
M4 N001 CLK VDD VDD CMOSP l={L4} w={W4} m={M4}
M5 N002 CLK VDD VDD CMOSP l={L5} w={W5} m={M5}
M1 N001 VINP N005 VSS CMOSN l={L1} w={W1} m={M1}
M6 VOUTP N001 VSS VSS CMOSN l={L6} w={W6} m={M6}
M7 VOUTP VOUTN VSS VSS CMOSN l={L7} w={W7} m={M7}
M8 N003 N001 VSS VSS CMOSN l={L8} w={W8} m={M8}
M9 VOUTP VOUTN N003 VDD CMOSP l={L9} w={W9} m={M9}
M10 N003 N001 VDD VDD CMOSP l={L10} w={W10} m={M10}
M11 VOUTN N002 VSS VSS CMOSN l={L11} w={W11} m={M11}
M12 VOUTN VOUTP VSS VSS CMOSN l={L12} w={W12} m={M12}
M13 N004 N002 VSS VSS CMOSN l={L13} w={W13} m={M13}
M14 VOUTN VOUTP N004 VDD CMOSP l={L14} w={W14} m={M14}
M15 N004 N002 VDD VDD CMOSP l={L15} w={W15} m={M15}
.param L = 0.18u
.param L1 = L
.param W1 = L1*10
.param M1 = 1
.param L2 = L
.param W2 = L2*10
.param M2 = 1
.param L3 = L
.param W3 = L3*10
.param M3 = 1
.param L4 = L
.param W4 = L4*10
.param M4 = 1
.param L5 = L
.param W5 = L5*10
.param M5 = 1
.param L6 = L
.param W6 = L6*10
.param M6 = 1
.param L7 = L
.param W7 = L7*10
.param M7 = 1
.param L8 = L
.param W8 = L8*10
.param M8 = 1
.param L9 = L
.param W9 = L9*10
.param M9 = 1
.param L10 = L
.param W10 = L10*10
.param M10 = 1
.param L11 = L
.param W11 = L11*10
.param M11 = 1
.param L12 = L
.param W12 = L12*10
.param M12 = 1
.param L13 = L
.param W13 = L13*10
.param M13 = 1
.param L14 = L
.param W14 = L14*10
.param M14 = 1
.param L15 = L
.param W15 = L15*10
.param M15 = 1
.include tsmc018.mdl
.ends my_comparator

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\circuit\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 13u 0 1n
.model SW SW(Ron=0.1 Roff=1G Vt=.5 Vh=-.4)
.meas tran reg1 find V(DOUT) AT=200n
.param Trise=30p
.param Td=Trise
.param Vhigh=1
.param Vlow=0
*PULSE(0 {Vhigh} 0 12.8u 0 0.2u 13u)
.param common = 0.9
*SINE(0.5 0.5 {fin} 0 0 90 0)
.options plotwinsize = 0
.options numdgt = 15
.FOUR {fin} 5 -1 V(DOUT)
*.param fin = 991219.9375
.param fin = 1Meg
.backanno
.end
